US07888464B2
Step 1: Preparation of 2-(3-Methoxy-phenylamino)-3,3-dimethyl-butyric acid
To a mixture of 3-methoxyaniline (100 mg, 0.812 mmol) and trimethylpyruvic acid (211 mg, 1.624 mmol) in methanol (3 mL) at rt was added acetic acid (0.930 mL, 16.24 mmol). The mixture was stirred for 30 min at rt then heated at 70° C. for 2 hrs. The mixture was cooled down to rt before adding sodium cyanotrihydroborate (1.624 mL, 1.624 mmol). The mixture was stirred overnight at rt. Water (10 mL) was added, and the mixture was extracted with ethyl acetate (3×10 mL). The organic layer was washed with sat. NaHCO3 and brine solution, and then dried over Na2SO4, filtered, and evaporated to dryness. The residue was purified by preparative HPLC to get a white solid (30.5 mg, 16%) as product.

reactant | 3-methoxyaniline | 0.812 mmol, 100 mg | COC=1C=C(N)C=CC1 | C7H9NO
reactant | trimethylpyruvic acid | 1.624 mmol, 211 mg | CC(C(C(=O)O)=O)(C)C | C6H10O3
reactant | acetic acid | 16.24 mmol, 0.930 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanotrihydroborate | 1.624 mmol, 1.624 mL | [B-]C#N.[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | Water | 10 mL | O | H2O
product | 2-(3-Methoxy-phenylamino)-3,3-dimethyl-butyric acid | 30.5 mg, 16% | COC=1C=C(C=CC1)NC(C(=O)O)C(C)(C)C | C13H19NO3
